US04767860
To 10.0 g (69.0 mmoles) of 40 percent glyoxal and 200 ml of distilled water is rapidly added 8.0 g (69.0 mmoles) of N,N'-diethylethylenediamine. The solution is heated rapidly to reflux and heating maintained for 5 minutes. The dark brown solution is allowed to cool to room temperature and is then evaporated at 60° C. under water pump vacuum to a viscous brown oil. The oil is distilled in a short path distillation apparatus to yield 10 g (93 percent yield) of 1,4-diethylpiperazin-2-one in the form of a yellow oil. Purity is greater than 99 percent by capillary gas chromatograph.

reactant | glyoxal | 69.0 mmoles, 10.0 g | C(=O)C=O | C2H2O2
reactant | N,N'-diethylethylenediamine | 69.0 mmoles, 8.0 g | C(C)NCCNCC | C6H16N2
solvent | water | 200 ml | O | H2O
product | 1,4-diethylpiperazin-2-one | 10 g, 93 percent yield | C(C)N1C(CN(CC1)CC)=O | C8H16N2O
